US07378418B2
273A. Preparation of 2-Benzyl-5-chloro-4-(4-chlorophenyl)pyridazin-3(2H)-one
To a mixture of 2-benzyl-4,5-dichloropyridazin-3(2H)-one (30.6 g, 120 mmol), prepared as described in Example 244A, 4-chlorophenyl boronic acid (20.6 g, 132 mmol) and tetrakis(triphenylphosphine)palladium (5 g, 4.3 mmol) in toluene (300 mL) under an atmosphere of argon, and was added an aqueous Na2CO3 solution (2M, 66 mL, 132 mmol). The reaction mixture was stirred at 100° C. under argon for 16 h. The reaction was then allowed to cool to RT and was subsequently poured into water (200 mL). The resulting mixture was extracted with EtOAc (3×150 mL). The combined organic layers were washed with saturated aqueous NaCl. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The obtained thick syrup was dissolved in MeOH (100 mL) and the resulting solution kept at 0° C. until white solid precipitated. The solid was collected by filtration, washed with hexanes, and then triturated with EtOAc-hexanes to give the title compound, 2-benzyl-5-chloro-4-(4-chlorophenyl)pyridazin-3(2H)-one (12 g, 30%) as a white powder. LC/MS (method A, general procedure): RT=3.81 min, (M+H)+=331.

reactant | 2-benzyl-4,5-dichloropyridazin-3(2H)-one | 120 mmol, 30.6 g | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Cl)Cl | C11H8Cl2N2O
reactant | 4-chlorophenyl boronic acid | 132 mmol, 20.6 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 132 mmol, 2M, 66 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 200 mL | O | H2O
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 4.3 mmol, 5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-benzyl-5-chloro-4-(4-chlorophenyl)pyridazin-3(2H)-one | 12 g, 30% | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=C(C=C1)Cl)Cl | C17H12Cl2N2O
